US06509328B1
8-(4-Fluoro-phenyl)-4-[3-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
A mixture of 3-[7-(4-fluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzoic acid hydrazide (Starting material 8a-2) (58 mg, 0.15 mmol) and ethyl acetimidate hydrochloride (74 mg, 0.6 mmol) in pyridine (0.6 mL) was heated to 100° C. for 2 h. The mixture was cooled to 23° C., diluted with H2O (30 mL) and stirred for 20 min. The precipitate was collected by filtration, and the crude product was purified by chromatography on silica gel using ethyl acetate/hexane (2:1) as eluent. The purified product was crystallized from Et2O/hexane to give the title compound as light yellow solid (28 mg).

reactant | 3-[7-(4-fluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzoic acid hydrazide | 0.15 mmol, 58 mg | FC1=CC=C(C=C1)C1=CC2=C(N=C(CC(N2)=O)C=2C=C(C(=O)NN)C=CC2)C=C1 | C22H17FN4O2
reactant | ethyl acetimidate hydrochloride | 0.6 mmol, 74 mg | Cl.C(C)(OCC)=N
solvent | pyridine | 0.6 mL | N1=CC=CC=C1 | C5H5N
solvent | H2O | 30 mL | O | H2O
product | 8-(4-Fluoro-phenyl)-4-[3-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 28 mg | FC1=CC=C(C=C1)C=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2OC(=NN2)C)=O)C1 | C24H17FN4O2
